* Provenance: written for circsim from manufacturer datasheet parameters, MIT.
* In-house discrete-MOSFET .model cards using ngspice's VDMOS model (the
* purpose-built vertical-DMOS power-MOSFET model, ngspice >= 30). VDMOS takes
* datasheet figures directly: vto (Vgs(th)), rd/rs/Rds(on) via the channel,
* kp (transconductance), and the gate-charge / output capacitances. No vendor
* model text is copied; only the datasheet electrical characteristics
* (Vgs(th), Rds(on)@Vgs, Ciss/Coss/Crss, Qg) inform the parameters.
*
* VDMOS glossary: vto=threshold, kp=transconductance, lambda=channel-length
* modulation, rd/rs=ohmic, rg=gate, cgdmax/cgdmin/cgs=gate charge model,
* cjo=body-diode cap, is/rb=body diode. pchan selects a P-channel device.

* --------------------------------------------------------------------------- NMOS
* 2N7002 small-signal logic-level NMOS (SOT-23): Vgs(th)=1.0-2.5V,
* Rds(on)~1.2-7.5 ohm @ Vgs=10V/Id=0.5A, Id=115mA cont, Ciss~50pF.
.model M2N7002 VDMOS(vto=1.6 kp=0.12 lambda=0.05 rd=1.8 rs=0.2 rg=3
+ cgdmax=20p cgdmin=4p cgs=28p cjo=20p is=1e-13 rb=0.5 bv=60)

* AO3400-class logic-level NMOS (SOT-23): Vgs(th)=0.65-1.45V,
* Rds(on)~22-30 mohm @ Vgs=4.5V, Id=5.7A, Ciss~750pF (low-Rds power FET).
.model MAO3400 VDMOS(vto=1.05 kp=40 lambda=0.02 rd=0.018 rs=0.004 rg=1.5
+ cgdmax=300p cgdmin=40p cgs=600p cjo=200p is=1e-12 rb=0.01 bv=30)

* NCE4012S 40V/12A logic-level power NMOS (SOP-8, pads 1-3=S, 4=G, 5-8=D):
* Vgs(th) typ 2.2V, Rds(on)~18 mohm @ Vgs=4.5V (rd=9 mohm + channel, kp tuned
* so rd+rs+1/(kp*(4.5-vto)) ~= 18 mohm), Id=12A, Ciss~1.7nF (cgs=1.6n),
* Crss~160pF (cgdmax). Body diode via is/rb, bv=40.
.model MNCE4012S VDMOS(vto=2.2 kp=55 lambda=0.01 rd=0.009 rs=0.001 rg=1.2
+ cgdmax=160p cgdmin=25p cgs=1.6n cjo=500p is=1e-12 rb=0.005 bv=40)

* NCE6005AS dual 60V/5A logic-level NMOS (SOP-8: 1=S1 2=G1 3=S2 4=G2 5,6=D2
* 7,8=D1): Vgs(th) typ 1.6V, Rds(on)~32 mohm @ Vgs=4.5V per FET, Id=5A.
* Two independent VDMOS devices in a subckt (terminals d1 g1 s1 d2 g2 s2).
* The .model card lives INSIDE the subckt so deck inlining carries it along
* (the generator inlines the .subckt block; a top-level card would dangle).
.subckt NCE6005AS d1 g1 s1 d2 g2 s2
.model MNCE6005AS VDMOS(vto=1.6 kp=19 lambda=0.02 rd=0.012 rs=0.002 rg=1.5
+ cgdmax=110p cgdmin=20p cgs=750p cjo=300p is=1e-12 rb=0.01 bv=60)
m1 d1 g1 s1 s1 MNCE6005AS
m2 d2 g2 s2 s2 MNCE6005AS
.ends NCE6005AS

* --------------------------------------------------------------------------- PMOS
* Generic P-channel logic-level MOSFET (AO3401/DMP-class): Vgs(th)=-0.6..-1.3V,
* Rds(on)~50-85 mohm @ Vgs=-4.5V, Id~-4A, Ciss~700pF. pchan=1 makes it P-type;
* vto is given as a positive magnitude with pchan.
.model MPMOS_GEN VDMOS(pchan=1 vto=-1.1 kp=18 lambda=0.02 rd=0.05 rs=0.01 rg=2
+ cgdmax=250p cgdmin=40p cgs=550p cjo=180p is=1e-12 rb=0.02 bv=30)

* AO3401 / AO3401A P-channel 30V logic-level MOSFET (SOT-23): Vgs(th)=-0.5..-1.3V
* (typ -0.9V), Rds(on)~50-60 mohm @ Vgs=-4.5V (rd + channel via kp), Id=-4A,
* Ciss~900pF (cgs=750p + cgdmax=150p). Dedicated datasheet-tuned card (the
* MPMOS_GEN generic aborted a real-board transient with "timestep too small").
.model MAO3401 VDMOS(pchan=1 vto=-1.1 kp=12 lambda=0.02 rd=0.02 rs=0.005 rg=1.5
+ cgdmax=150p cgdmin=25p cgs=750p cjo=250p is=1e-12 rb=0.02 bv=30)
