* Provenance: written for circsim from manufacturer datasheet parameters, MIT.
* In-house BEHAVIORAL power-management-IC stubs. No vendor model text is
* copied: each subckt is a deliberately SIMPLIFIED operating-point model that
* covers only what a bench DC bias / live-bench run needs (gate-driver rest
* states, internal LDO rails, averaged regulation targets). The datasheet
* electrical characteristics used (drive levels, LDO voltage, mean sense
* voltage, dimming thresholds) are facts; every simplification is documented
* in the per-part SIMPLIFICATIONS note below.

* ---------------------------------------------------------------------------
* BQ77915 family (BQ77915xx, TI) 3S-5S battery protector — NORMAL-mode stub.
* Nodes: vdd vss chg dsg
* Datasheet basis: in NORMAL mode both external-FET drivers are ON — CHG and
* DSG drive to the supply rail; Iq ~ 8 uA. E-sources hold chg and dsg at
* v(vdd) relative to vss, and a 10Meg vdd->vss load keeps the part's own
* draw ~0. The stub answers one bench question: "with the protector happy,
* does the battery loop conduct?"
* SIMPLIFICATIONS: no protection trips (OV/UV/OCD/SCD and the temperature
* faults never fire — the drivers are unconditionally on), no cell balancing,
* no AVDD/VTB outputs, no HIBERNATE/SHUTDOWN modes, no SRP/SRN sensing.
.subckt BQ7791502 vdd vss chg dsg
echg chg vss vdd vss 1
edsg dsg vss vdd vss 1
rq vdd vss 10Meg
.ends BQ7791502

* ---------------------------------------------------------------------------
* LTC4020 (ADI) 55V buck-boost multi-chemistry charge controller — idle/off
* stub V1. Nodes: vin intvcc tg1 bg1 tg2 bg2 gnd
* Datasheet basis: INTVCC is the internal 5V LDO (regulated to 5V from VIN);
* modeled as a behavioral source v = max(0, min(v(vin,gnd)-0.3, 5)) behind a
* ~1 ohm PURELY RESISTIVE output (no cap — keeps op robust), plus a 1Meg
* vin->gnd quiescent trickle. 100k pulldowns from each external gate-driver
* pin (tg1/bg1/tg2/bg2) to gnd hold all four external FETs OFF so the SW
* nodes are defined instead of floating.
* SIMPLIFICATIONS: no switching, no charging, no PowerPath/ideal-diode
* control, no status pins — the intended bench workflow drives the output
* rail from a CC/CV bench supply; this stub only makes the converter cluster
* inert and well-defined at the operating point.
.subckt LTC4020 vin intvcc tg1 bg1 tg2 bg2 gnd
bint int gnd v = max(0, min(v(vin,gnd)-0.3, 5))
rint int intvcc 1
rtg1 tg1 gnd 100k
rbg1 bg1 gnd 100k
rtg2 tg2 gnd 100k
rbg2 bg2 gnd 100k
rq vin gnd 1Meg
.ends LTC4020

* ---------------------------------------------------------------------------
* AL8860 (Diodes Inc.) 40V/1.5A hysteretic buck LED driver — DC-AVERAGED
* constant-current sink. Nodes: vin set sw ctrl gnd
* Datasheet basis: mean current-sense threshold voltage 100 mV measured on
* the SET pin with respect to VIN (Iled ~= 100mV / Rs for the external sense
* resistor VIN->SET); CTRL analog dimming ~0..2.5V full scale, device off
* below ~0.2V, and ON by default when CTRL floats (internal pull-up, modeled
* as 1Meg ctrl->vin). The behavioral sink sw->gnd servos the loop closed by
* the external Rs: a smooth tanh error stage (5 mV linear band, 3 A cap)
* raises the sink current until v(vin,set) reaches the dim-scaled target All limiting is
* via smooth min/max/tanh forms — no ternary discontinuities (convergence
* safety, same rationale as the TL431 behavioral cell). An output-compliance
* clamp collapses the sink smoothly as v(sw,gnd) approaches 0 (the averaged
* switch node cannot be pulled below ground), which also keeps the op
* well-posed when the LED path is open (e.g. an unfitted LED connector on a
* real board would otherwise strand a forced current source on a dead-end
* node — a hard singular matrix).
* SIMPLIFICATIONS: DC-averaged (no switching ripple, no inductor/freewheel
* dynamics — the LED string carries the mean current directly), CTRL dimming
* scales the 100 mV sense target linearly (v(ctrl)/2.5 clamped to [0,1] ->
* target 0..100 mV, i.e. Iled tracks ctrl; smooth cutoff below the 0.2V
* off threshold), no thermal foldback, no UVLO.
.subckt AL8860 vin set sw ctrl gnd
* sink = 3A cap * off-gate * dim-scaled 100mV sense servo * compliance
bled sw gnd i = 3 *
+ 0.5*(1+tanh((v(ctrl,gnd)-0.2)/0.02)) *
+ 0.5*(1+tanh((0.1*min(1, max(0, v(ctrl,gnd)/2.5)) - v(vin,set))/0.005)) *
+ 0.5*(1+tanh((v(sw,gnd)-0.15)/0.05))
* internal CTRL pull-up (device is ON when CTRL is left floating)
rctrl ctrl vin 1Meg
* SET pin definedness (input bias path; >> any real sense resistor)
rset vin set 10Meg
* quiescent trickle so the part draws a bench-visible ~uA from vin
rq vin gnd 1Meg
.ends AL8860
