* Provenance: written for circsim from the NE555 datasheet BLOCK DIAGRAM, MIT.
* This is an in-house behavioral NE555 built directly from the functional block
* diagram in the datasheet — two comparators, an internal 5k/5k/5k divider, an
* RS (set-reset) latch, an output buffer, and the open-collector discharge
* transistor. No ngspice example-netlist text and no vendor model text is
* copied; only the datasheet topology (which blocks connect to which pins) and
* its threshold ratios (2/3 Vcc, 1/3 Vcc) inform the implementation.
*
* NE555 pinout (standard):
*   1 GND   2 TRIG   3 OUT   4 RESET   5 CTRL   6 THRES   7 DISCH   8 VCC
*
* ---------------------------------------------------------------------------
* Subckt node order (matches the pinMap in index.json):
*   gnd trig out reset ctrl thres disch vcc   (pins 1 2 3 4 5 6 7 8)
* ---------------------------------------------------------------------------
.subckt NE555 gnd trig out reset ctrl thres disch vcc
*
* ---- internal 5k / 5k / 5k resistor divider ----
* VCC --[5k]-- ctrl(=2/3 Vcc) --[5k]-- ntrig(=1/3 Vcc) --[5k]-- GND
* The CTRL pin is brought out at the 2/3 node (so an external cap/voltage on
* CTRL shifts the upper threshold, per the datasheet).
rdiv_a vcc ctrl 5k
rdiv_b ctrl n13 5k
rdiv_c n13 gnd 5k
*
* ---- upper (threshold) comparator ----
* output high when THRES > CTRL (2/3 Vcc). Drives the latch RESET input.
bcomphi chi gnd v = ( v(thres) > v(ctrl) ) ? 1 : 0
*
* ---- lower (trigger) comparator ----
* output high when TRIG < 1/3 Vcc (node n13). Drives the latch SET input.
bcomplo clo gnd v = ( v(trig) < v(n13) ) ? 1 : 0
*
* ---- RS latch with active-low RESET pin override ----
* State node 'q' is the latch output and holds in [0,1]. It is realized as a
* capacitor integrated by a push/pull current:
*   - SET   (clo high, lower comparator): push q up toward 1
*   - RESET (chi high, upper comparator) OR external RESET pin low: push q down
*   - otherwise HOLD (no current -> the cap retains its value = memory)
* The push currents only act while q is moving toward the target (gated by the
* target so q parks cleanly at 0 or 1), and a strong clamp keeps q in [0,1].
* RESET is made dominant over SET (datasheet: reset/threshold wins).
.param islew = 100m
blatch 0 q i =
+ ( (v(reset) < 1) || (v(chi) > 0.5) ) ? ( (v(q) > 0.0) ? (-islew) : 0 ) :
+ ( (v(clo) > 0.5) ? ( (v(q) < 1.0) ? (islew) : 0 ) : 0 )
cq q 0 1n ic=0
* hard clamp: strong restoring current if q leaves [0,1].
bclamp 0 q i = (v(q) > 1) ? (-(v(q)-1)*10) : ( (v(q) < 0) ? (-v(q)*10) : 0 )
* read the latch state through a clean 0/1 decision (mid-point threshold).
bq qd gnd v = ( v(q) > 0.5 ) ? 1 : 0
*
* ---- output buffer (pin 3) ----
* OUT is HIGH (≈Vcc) when the latch is SET, LOW (≈0) when reset. Push-pull
* through a small output resistance; clamp to the rails. RESET low forces low.
bout obuf gnd v = ( v(reset) < 1 ) ? 0 :
+ ( ( v(qd) > 0.5 ) ? (v(vcc)-0.5) : 0.1 )
rout obuf out 10
*
* ---- discharge transistor (pin 7, open collector to GND) ----
* The discharge transistor is ON (DISCH pulled to GND) when the output is LOW
* (latch reset), and OFF (high-Z) when the output is HIGH. Modeled as a
* voltage-controlled resistance from DISCH to GND.
bdisch disch gnd i = ( (v(qd) < 0.5) || (v(reset) < 1) ) ?
+ ( (v(disch)-v(gnd))/15 ) : ( (v(disch)-v(gnd))/1e9 )
.ends NE555
